US05932606
Step D: 3-Amino-N-t-butoxycarbonylpiperidine
A solution of 3-azido-N-t-butoxycarbonylpiperidine (850 mg) in ethyl acetate (50 ml) was hydrogenated in the presence of 10% Pd/C (550 mg) at atmospheric pressure for 2.5 h. The reaction mixture was then filtered through Celite and the filtrate concentrated in vacuo to give the title compound. 1H NMR (CDCl3) d 1.46 (s, 9 H), 1.66-2.05 (m, 4 H), 2.57 (br s, 1 H), 2.78 (m, 4 H), 3.80 (br d, 2 H).

reactant | 3-azido-N-t-butoxycarbonylpiperidine | 850 mg | N(=[N+]=[N-])C1CN(CCC1)C(=O)OC(C)(C)C | C10H18N4O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 550 mg | [Pd] | Pd
product | 3-Amino-N-t-butoxycarbonylpiperidine | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
